US08491868B2
To a solution of 4-iodophenylpiperazine hydrochloride (1.0 g, 3.08 mmol) in water (15 mL) was added sodium hydroxide (246 mg, 6.16 mmol), followed by di-tert-butyl dicarbonate (740 mg, 3.39 mmol). The reaction mixture stirred at room temperature overnight. The next day, the reaction mixture was filtered to collect tert-butyl 4-(4-iodophenyl)piperazine-1-carboxylate as a tan solid (1.1 g, 92% yield), which was washed with water (50 mL) and taken on to the next step without further purification. 1H NMR (600 MHz, CDCl3): δ 7.53 (d, 2H, J=9.0 Hz), 6.68 (d, 2H, J=9.0 Hz), 3.57 (dd, 4H, J=5.2, 5.0 Hz), 3.11 (dd, 4H, J=4.9, 4.9 Hz), 1.49 (s, 9H); 13C NMR (150 MHz, CDCl3): δ 154.9, 151.1, 138.1, 118.8, 82.3, 80.2, 67.3, 49.2, 28.7; HRMS calcd for C15H21IN2O3: 389.07205 found 389.07165.

reactant | 4-iodophenylpiperazine hydrochloride | 3.08 mmol, 1.0 g | Cl.IC1=CC=C(C=C1)N1CCNCC1
reactant | sodium hydroxide | 6.16 mmol, 246 mg | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 3.39 mmol, 740 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 15 mL | O | H2O
product | tert-butyl 4-(4-iodophenyl)piperazine-1-carboxylate | 1.1 g, 92% yield | IC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H21IN2O2
